US07601844B2
4-Isopropylbenzoic acid (4.26 g, 25.9 mmol), sulfuric acid (25 mL), and water (2 mL) was heated to 95° C. and iodine (14.42 g, 56.8 mmol) was slowly added portionwise. The reaction was maintained at this temperature for 48 h. The reaction was cooled, poured into ice and extracted with methylene chloride. The organic extracts were dried over sodium sulfate, filtered, concentrated and then purified by reverse phase HPLC (MeOH/water/TFA) to yield 3-iodo-4-isopropylbenzoic acid (60 mg).

reactant | 4-Isopropylbenzoic acid | 25.9 mmol, 4.26 g | C(C)(C)C1=CC=C(C(=O)O)C=C1 | C10H12O2
reactant | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
reactant | iodine | 56.8 mmol, 14.42 g | II | I2
solvent | water | 2 mL | O | H2O
product | 3-iodo-4-isopropylbenzoic acid | 60 mg | IC=1C=C(C(=O)O)C=CC1C(C)C | C10H11IO2
